US06696487B2
Preparation of 2,5-dimethyl-4-[(3-phenyl-1,2,4-thiadiazol-5-yl)oxy]phenylamine
4-Amino-2,5-dimethylphenol (10.5 g) is added at room temperature to a suspension of sodium hydride (60% dispersion in mineral oil, 3 g) in anhydrous dimethylformamide (300 ml). The reaction mixture is stirred for 30 minutes and 5-bromo-3-phenyl-1,2,4-thiadiazole (18 g) prepared according to Chem. Ber. 1961, 94, 2043 is then added slowly. After stirring for 15 h, the reaction mixture is diluted in ice-water and then extracted with diethyl ether. Drying over magnesium sulphate followed by concentration of the combined organic phases gives the title compound.

reactant | 4-Amino-2,5-dimethylphenol | 10.5 g | NC1=CC(=C(C=C1C)O)C | C8H11NO
reactant | sodium hydride | 3 g | [H-].[Na+]
reactant | 5-bromo-3-phenyl-1,2,4-thiadiazole | 18 g | BrC1=NC(=NS1)C1=CC=CC=C1 | C8H5BrN2S
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2,5-dimethyl-4-[(3-phenyl-1,2,4-thiadiazol-5-yl)oxy]phenylamine | CC1=C(C=C(C(=C1)OC1=NC(=NS1)C1=CC=CC=C1)C)N | C16H15N3OS
